US05750558
To a mixture in dry DMSO (11.6 mL) of 2-(4-chlorobenzoyl-5-methoxy-2-methylindol-3-yl) ethanol (2.0 g, 5.8 mmol), prepared as in step 1, and dicyclohexylcarbodiimide (DCC) (1.6 g. 7.8 mmol) was added 1.0 M H3PO4 in DMSO (1.0 mL) and the reaction mixture was stirred at room temperature for 48 hours. Diethyl ether (100 mL) was added and the solid dicyclohexylurea byproduct was removed by filtration. The filtrate was washed with water, dried over MgSO4, filtered, and evaporated in vacuo. The crude product was triturated with hexane/ether to give 1.9 g (95%) of (4-chlorobenzoyl-5-methoxy-2-methylindol-3-yl) acetaldehyde.

reactant | 2-(4-chlorobenzoyl-5-methoxy-2-methylindol-3-yl) ethanol | 5.8 mmol, 2.0 g | ClC1=CC=C(C(=O)C2=C3C(=C(NC3=CC=C2OC)C)CCO)C=C1 | C19H18ClNO3
reactant | dicyclohexylcarbodiimide | 7.8 mmol, 1.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | H3PO4 | 1.0 M | OP(=O)(O)O | H3O4P
reactant | Diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | DMSO | 11.6 mL | CS(=O)C | C2H6OS
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
product | (4-chlorobenzoyl-5-methoxy-2-methylindol-3-yl) acetaldehyde | 1.9 g, 95% | ClC1=CC=C(C(=O)C2=C3C(=C(NC3=CC=C2OC)C)CC=O)C=C1 | C19H16ClNO3
